US07005432B2
5-(3-Fluoro-5-trifluoromethyl-phenyl)-3-(2-methyl-imidazol-1-yl-methyl)-pyridazine hydrochloride
The title compound, MS: m/e 337.2 (M+H+), was prepared from 2-(3-fluoro-5-trifluoromethyl-phenyl)-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane and 5-chloro-3-(2-methyl-imidazol-1-yl-methyl)-pyridazine.

reactant | 2-(3-fluoro-5-trifluoromethyl-phenyl)-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane | FC=1C=C(C=C(C1)C(F)(F)F)B1OC(C(O1)(C)C)(C)C | C13H15BF4O2
reactant | 5-chloro-3-(2-methyl-imidazol-1-yl-methyl)-pyridazine | ClC=1C=C(N=NC1)CN1C(=NC=C1)C | C9H9ClN4
product | 5-(3-Fluoro-5-trifluoromethyl-phenyl)-3-(2-methyl-imidazol-1-yl-methyl)-pyridazine hydrochloride | Cl.FC=1C=C(C=C(C1)C(F)(F)F)C=1C=C(N=NC1)CN1C(=NC=C1)C | InChI=1S/C16H12F4N4.ClH/c1-10-21-2-3-24(10)9-15-6-12(8-22-23-15)11-4-13(16(18,19)20)7-14(17)5-11;/h2-8H,9H2,1H3;1H
